US05401851
4-Nitroimidazole (0.29 moles, 32.9 g in 30 ml DMF was treated portionwise with sodium hydride (0.29 moles, 11.6 g. 60% in mineral oil) and stirred for 45 minutes. Ethyl 2-bromooctanoate (0.29 moles, 73.1 g) was added dropwise over 1 hour. The reaction was stirred overnight at room temperature, poured onto ice water, and extracted with ethyl acetate. The organic phase was washed with brine, dried and concentrated to yield 91 g of ethyl 2-(4-nitro-1H-imidazol-1-yl)octanoate. (MS)

reactant | 4-Nitroimidazole | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | sodium hydride | 0.29 moles, 11.6 g | [H-].[Na+]
reactant | Ethyl 2-bromooctanoate | 0.29 moles, 73.1 g | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(4-nitro-1H-imidazol-1-yl)octanoate | 91 g | [N+](=O)([O-])C=1N=CN(C1)C(C(=O)OCC)CCCCCC | C13H21N3O4
